US07396844B1
Synthesis of 3-[(2S)-3-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]-2-(t-butoxycarbonylamino)propoxy]benzonitrile
6.4 g (12.7 mmol) of benzyl 3-[4-[(2S)-3-chloro-2-(t-butoxycarbonylamino)propyl]phenoxy]piperidine-1-carboxylate was dissolved in 70 ml of dimethylformamide. 2.27 g (19.1 mmol) of 3-cyanophenol and 3.51 g (25.4 mmol) of potassium carbonate were added to the solution, and they were stirred at 70° C. for 15 hours. After the treatment with ethyl acetate as the extractant in an ordinary manner, the crude product was obtained, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | benzyl 3-[4-[(2S)-3-chloro-2-(t-butoxycarbonylamino)propyl]phenoxy]piperidine-1-carboxylate | 12.7 mmol, 6.4 g | ClC[C@H](CC1=CC=C(OC2CN(CCC2)C(=O)OCC2=CC=CC=C2)C=C1)NC(=O)OC(C)(C)C | C27H35ClN2O5
reactant | 3-cyanophenol | 19.1 mmol, 2.27 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | potassium carbonate | 25.4 mmol, 3.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 3-[(2S)-3-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]-2-(t-butoxycarbonylamino)propoxy]benzonitrile | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C[C@@H](COC=1C=C(C#N)C=CC1)NC(=O)OC(C)(C)C | C34H39N3O6
